US04096143
α,α-dibromo-o-toluic acid (29.4 g) and phenylhydrazine (34.6 g) were allowed to react as in Example 4. There was obtaoined 6.7 g (yield: 30%) of 2-phenyl-1-phthalazinone having a melting poin of 104°-105° C.

reactant | α,α-dibromo-o-toluic acid | 29.4 g | BrC(C=1C(=CC=CC1)C(=O)O)Br | C8H6Br2O2
reactant | phenylhydrazine | 34.6 g | C1(=CC=CC=C1)NN | C6H8N2
product | 2-phenyl-1-phthalazinone | 6.7 g, yield: 30% | C1(=CC=CC=C1)N1C(C2=CC=CC=C2C=N1)=O | C14H10N2O
